US07592337B2
2-{2-[3-(2H-Tetrazol-5-yl)phenyl]-2H-tetrazol-5-yl}pyridine
3-(5-Pyridin-2-yl-2H-tetrazol-2-yl)benzonitrile (300 mg, 1.21 mmol), sodium azide (86.5 mg, 1.33 mmol) and zinc bromide (272 mg, 1.21 mmol) were suspended in water (3 mL). The reaction was capped with a reflux condenser and stirred at 90° C. for 24 h, after which time it was cooled to rt and HCl 3N (1.5 mL) and ethyl acetate (20 mL) were added and the mixture stirred vigorously until no solid was left. The organic layer was isolated and aqueous layer extracted with ethyl acetate (2×20 mL). The combined organic layers were evaporated, 10 mL of 0.25N NaOH was added, the mixture was stirred for 30min, until the original precipitate was dissolved and a suspension of zinc hydroxide was formed. The suspension was filtered, and the solid washed with 10 ml 1 N NaOH. To the filtrate was added 2 mL of 3N HCl with stirring causing the tetrazole to precipitate. The tetrazole was filtered and washed with 5 mL of 3N HCl and dried in vacuo to afford white powder. 1H NMR (CD3OD, 500 MHz) δ 8.91 (s, 1H), 8.83 (d, 1H), 8.41 (d, 1H), 8.32-8.25 (m, 2H), 8.09 (t, 1H), 7.95 (t, 1H), 7.64 (t, 1H). MS 292.1 (M+H)+.

reactant | 3-(5-Pyridin-2-yl-2H-tetrazol-2-yl)benzonitrile | 1.21 mmol, 300 mg | N1=C(C=CC=C1)C=1N=NN(N1)C=1C=C(C#N)C=CC1 | C13H8N6
reactant | sodium azide | 1.33 mmol, 86.5 mg | [N-]=[N+]=[N-].[Na+]
reactant | HCl | 3N, 1.5 mL | Cl | ClH
reactant | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 3 mL | O | H2O
catalyst | zinc bromide | 1.21 mmol, 272 mg | [Br-].[Zn+2].[Br-]
product | 2-{2-[3-(2H-Tetrazol-5-yl)phenyl]-2H-tetrazol-5-yl}pyridine | N=1NN=NC1C=1C=C(C=CC1)N1N=C(N=N1)C1=NC=CC=C1 | C13H9N9
